US04613609
2,3-Dichlorophenyldiazonium chloride
To a suspension of 25 g (0.15 mole) 2,3-dichloroaniline in 16 ml H2O, add 39 ml (0.46 mole) concentrated HCl. Stir the mixture at room temperature for about five minutes. Cool the mixture to -5° to 0° C. and add dropwise a solution of 11 g (0.16 mole) NaNO2 in 30 ml H2O. Stir the resulting solution at -5° to 0° C. for about 30 minutes, then filter the solution into an ice-cooled filter flask. Keep the filtrate containing the diazonium salt at about 0° C.

reactant | 2,3-dichloroaniline | 0.15 mole, 25 g | ClC1=C(N)C=CC=C1Cl | C6H5Cl2N
reactant | HCl | 0.46 mole, 39 ml | Cl | ClH
reactant | NaNO2 | 0.16 mole, 11 g | N(=O)[O-].[Na+]
solvent | H2O | 16 ml | O | H2O
solvent | H2O | 30 ml | O | H2O
product | 2,3-Dichlorophenyldiazonium chloride | [Cl-].ClC1=C(C=CC=C1Cl)[N+]#N | InChI=1S/C6H3Cl2N2.ClH/c7-4-2-1-3-5(10-9)6(4)8;/h1-3H;1H/q+1;/p-1
